US05463069
N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea (1.47 g) and stannic chloride n-hydrate (n=4 to 5) (0.09 g) were added to methyl isobutyl ketone (7.50 g) at room temperature, and the mixture was heated to 90° C. and stirred at the same temperature for 7 hours. After cooling, 35% hydrochloric acid (0.52 g) was added to the reaction mixture with stirring, and the mixture was heated to 90° C. and stirred at the same temperature for 2.5 hours. After cooling, water was added to the reaction mixture, which was then neutralized by addition of sodium hydrogen carbonate and extracted with methyl isobutyl ketone. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, which afforded 1.08 g of 2-imino-3-(3-(trifluoromethyl)phenyl)-5-methyl-4-thiazoline (75% yield as a corrected value from the below-mentioned purity). From the results of analysis by liquid chromatography, the purity was determined to be 89%.

reactant | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea | 1.47 g | FC(C=1C=C(C=CC1)N(C(=S)N)CC(=C)Cl)(F)F | C11H10ClF3N2S
reactant | methyl isobutyl ketone | 7.50 g | C(C(C)C)C(=O)C | C6H12O
reactant | hydrochloric acid | 0.52 g | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-imino-3-(3-(trifluoromethyl)phenyl)-5-methyl-4-thiazoline | 1.08 g, 75% yield | N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C11H9F3N2S
